US04851413
7-(2,5-dimethoxy-3,4,6-trimethylphenyl)-7-(3-pyridyl)heptanoic acid (1.0 g, 2.6 mmol) prepared in the Reference Example 11 was dissolved in 47% aqueous hydrogen bromide (5 ml) and the solution was heated at a reflux temperature for 2 hours. After the reaction was completed, the reaction mixture was cooled. The solution was made alkaline with sodium bicarbonate and the product was extracted with ethylacetate. The extract was washed with water, dried, and evaporated in vacuo. The resulting hydroquinone was oxidized with air and the solvent was evaporated to yield 7-(3,5,6-trimethyl-1,4-benzoquinon-2-yl)-7-(3-pyridyl)heptanoic acid (0.8 g, 86.8%) after crystallization from ethylacetate, m.p. 126°-127° C.

reactant | 7-(2,5-dimethoxy-3,4,6-trimethylphenyl)-7-(3-pyridyl)heptanoic acid | 2.6 mmol, 1.0 g | COC1=C(C(=C(C(=C1C)C)OC)C)C(CCCCCC(=O)O)C=1C=NC=CC1 | C23H31NO4
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | hydrogen bromide | 5 ml | Br | BrH
product | 7-(3,5,6-trimethyl-1,4-benzoquinon-2-yl)-7-(3-pyridyl)heptanoic acid | 0.8 g, 86.8% | CC1=C(C(C(=C(C1=O)C)C)=O)C(CCCCCC(=O)O)C=1C=NC=CC1 | C21H25NO4
